* MODELLING FOR STP5NK50Z
 
.SUBCKT STP5NK50Z 1 2 3
LG 2 4  0.739E-08
LS 12 3 0.517E-08
LD 6 1  0.453E-08
RG 4 5  5.998
RS 9 12 0.339E-01
RD 7 6  0.836
RJ 8 7  0.149E-01
CGS 5 9   0.638E-09
CGD 7 10  0.641E-09
CK  11 7  0.177E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.655E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STP5NK50Z
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.552
+ PHI   = 0.818
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.753E-01
+ KP    = 4.495
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.189E-10
+ VJ    = 0.828
+ M     = 0.361
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.639E-09
+ VJ    = 0.791
+ M     = 0.313
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 569
+ N     = 1
+ TT    = 0.271E-06
+ RS    = 0.615E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 579
* END OF MODELLING
