* D:\Matthias\OneDrive\Dokumente\LTspiceXVII\class_d_amp_final_design.asc
V1 N002 0 12
C1 N005 N011 100nF
C2 N004 N010 100nF
R1 N007 N005 1k
R2 N006 N008 10
R3 N006 N004 1k
R4 N014 N002 1k
R5 N014 N017 10
R6 N002 N015 1k
R7 N019 N015 10
D1 N010 N002 B550C
D2 N011 N002 B550C
D3 0 N011 B550C
D4 0 N010 B550C
R8 N009 N007 10
Q1 N008 N013 0 0 BD139
D5 N013 N019 B550C
D6 N012 N017 B550C
D7 N013 N008 B550C
D8 N012 N009 B550C
M1 N002 N006 N010 N010 PSMN057200B
Q2 N017 N012 0 0 BD139
Q3 N009 N012 0 0 BD139
Q4 N019 N013 0 0 BD139
M2 N010 N014 0 0 PSMN057200B
M3 N011 N015 0 0 PSMN057200B
M4 N002 N007 N011 N011 PSMN057200B
R9 N002 N001 10
R10 N003 N002 10
D9 N001 N004 B550C
D10 N003 N005 B550C
XU1 N016 N018 5V 0 N020 LM393A
XU2 N018 N016 5V 0 N021 LM393A
R11 N020 5V 1000
R12 N021 5V 1000
Q5 N013 N020 0 0 BC547C
R13 5V N013 50
Q6 N012 N021 0 0 BC547C
R14 5V N012 50
C3 N016 audio_in 100µF
R15 N016 0 10k
R16 5V N016 10k
R17 N011 N010 4
Q7 N023 N023 N022 0 BC557C
Q8 N026 N023 N022 0 BC557C
R18 N023 N024 220
C5 N026 0 10nF
Q9 N028 N028 N029 0 BC547C
Q10 N026 N028 N029 0 BC547C
R19 N024 N028 220
XU3 0 N025 N024 NC_01 N027 N025 NC_02 5V NE555
C6 0 N027 100nF
C7 0 N025 1nF
R20 N024 N025 3k
R21 5V N022 22
R22 N029 0 22
V3 5V 0 5
V4 audio_in 0 SINE(0 1.75 2k 0 0 0) Rser=600
C8 N018 N026 100µF
R24 N018 0 100k
R23 N018 5V 1.47Mega
.model D D
.lib C:\Users\matt\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\matt\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\matt\Documents\LTspiceXVII\lib\cmp\standard.mos
* 200kHz
.tran 0 25ms 1ms
.lib C:\Users\matt\Documents\LTspiceXVII\LM393A.lib
.lib NE555.sub
.backanno
.end
